US06861438B2
N-(4-chlorobenzyl)-7-hydroxy-2-iodothieno [3,2-b]pyridine-6-carboxamide
A stirring mixture of ethyl 7-hydroxy-2-iodothieno[3,2-b]pyridine-6-carboxylate (1.5 g, 4.29 mmol) in 4-chlorobenzylamine (15 mL) was heated at 190° C. for 1 hour. The resulting dark solution was cooled to ambient temperature and 100 mL toluene added. The resulting solid was collected by filtration and dried at 50° C. for 16 h to afford 0.875 g title compound as a yellow solid.

reactant | ethyl 7-hydroxy-2-iodothieno[3,2-b]pyridine-6-carboxylate | 4.29 mmol, 1.5 g | OC1=C2C(=NC=C1C(=O)OCC)C=C(S2)I | C10H8INO3S
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | 4-chlorobenzylamine | 15 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-chlorobenzyl)-7-hydroxy-2-iodothieno [3,2-b]pyridine-6-carboxamide | 0.875 g | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)C=C(S3)I)O)C=C1 | C15H10ClIN2O2S
